US05569655
To a stirred solution of imidazole (6.808 g, 0.1 mol) in dry DMF (100 ml) at 0° C. under argon was added portionwise 4 g (0.1 mol) of 60% sodium hydride and the mixture was stirred for 30 minutes at room temperature, and cooled to 0° C. To the above mixture was added 3-phenylpropyl bromide (19.91 g, 0.1 mol) and the resulting mixture was stirred at room temperature overnight. The reaction mixture was heated on a steam-bath for 4 hours and stirred at room temperature overnight. The solvent was concentrated in vacuo, the residue was partitioned between methylene chloride and water, the organic layer was dried over sodium sulfate, and concentrated in vacuo. The residual oil was dried in vacuo and purified by silica gel column chromatography to afford 16.1 g (86%) of 1-(3-phenylpropyl)imidazole.

reactant | imidazole | 0.1 mol, 6.808 g | N1C=NC=C1 | C3H4N2
reactant | sodium hydride | 0.1 mol, 4 g | [H-].[Na+]
reactant | 3-phenylpropyl bromide | 0.1 mol, 19.91 g | C1(=CC=CC=C1)CCCBr | C9H11Br
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 1-(3-phenylpropyl)imidazole | 16.1 g, 86% | C1(=CC=CC=C1)CCCN1C=NC=C1 | C12H14N2
